US04536346
4-[5,5-Bis(p-chlorophenyl)-2,4-pentadienamido]benzoic acid
A mixture of 4.0 g. of p-[5,5-bis(p-chlorophenyl)-2,4-pentadienamido]benzoic acid, ethyl ester, 40 ml. of ethanol, and 10 ml. of 1N sodium hydroxide is heated at reflux for 4 hours, filtered while hot, 15 ml. of 1N hydrochloric acid are added, and the mixture is cooled in ice. The solid is collected, washed with water, dried and recrystallized from ethanol, giving 3.1 g. of the desired product, m.p. 273°-276° C.

reactant | p-[5,5-bis(p-chlorophenyl)-2,4-pentadienamido]benzoic acid, ethyl ester | ClC1=CC=C(C=C1)C(=CC=CC(=O)NC1=CC=C(C(=O)OCC)C=C1)C1=CC=C(C=C1)Cl | C26H21Cl2NO3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-[5,5-Bis(p-chlorophenyl)-2,4-pentadienamido]benzoic acid | ClC1=CC=C(C=C1)C(=CC=CC(=O)NC1=CC=C(C(=O)O)C=C1)C1=CC=C(C=C1)Cl | C24H17Cl2NO3
